US07202367B2
Preparation of N-phenylbenzenesulphonamide
Example 2.1 was repeated, using 14.4 mg of cuprous oxide (0.1 mmoles), 117 mg of Chxn-Py-Al (0.4 mmoles), 472 mg of benzenesulphonamide (3 mmoles), 224 μl of iodobenzene (2 mmoles), 1.04 g of caesium carbonate (3.2 mmoles), 600 mg of ground and activated 3 Å molecular sieve and 1.6 ml of DMF.

reactant | benzenesulphonamide | 3 mmoles, 472 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | iodobenzene | 2 mmoles, 224 μl | IC1=CC=CC=C1 | C6H5I
reactant | caesium carbonate | 3.2 mmoles, 1.04 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 1.6 ml | CN(C)C=O | C3H7NO
product | N-phenylbenzenesulphonamide | C1(=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C12H11NO2S
